US08003681B2
Dichloroacetic acid (180 uL, 2.2 mmol) was added to a suspension of 2-[5-amino-4-(4-cyclopropylnaphthalen-1-yl)-4H-[1,2,4]triazol-3-ylsulfanyl]-N-(2-chloro-4-sulfamoylphenyl)acetamide (0.59 g, 1.1 mmol), sodium nitrite (1.5 g, 22 mmol) and BTEABr (0.91 g, 3.3 mmol) in dibromomethane (30 mL). The reaction mixture was stirred at room temperature for 4 hours, then extracted with dichloromethane and sodium bicarbonate in water. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography to yield 2-[5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-[1,2,4]triazol-3-ylsulfanyl]-N-(2-chloro-4-sulfamoylphenyl)acetamide (224 mg, 31%).

reactant | Dichloroacetic acid | 2.2 mmol, 180 uL | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | 2-[5-amino-4-(4-cyclopropylnaphthalen-1-yl)-4H-[1,2,4]triazol-3-ylsulfanyl]-N-(2-chloro-4-sulfamoylphenyl)acetamide | 1.1 mmol, 0.59 g | NC=1N(C(=NN1)SCC(=O)NC1=C(C=C(C=C1)S(N)(=O)=O)Cl)C1=CC=C(C2=CC=CC=C12)C1CC1 | C23H21ClN6O3S2
reactant | sodium nitrite | 22 mmol, 1.5 g | N(=O)[O-].[Na+]
reactant | dibromomethane | 30 mL | BrCBr | CH2Br2
product | 2-[5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-[1,2,4]triazol-3-ylsulfanyl]-N-(2-chloro-4-sulfamoylphenyl)acetamide | 224 mg, 31% | BrC=1N(C(=NN1)SCC(=O)NC1=C(C=C(C=C1)S(N)(=O)=O)Cl)C1=CC=C(C2=CC=CC=C12)C1CC1 | C23H19BrClN5O3S2
